US07504500B2
9.4 g (71.685 mmol) of L-hydroxyproline are dissolved in 71.68 ml of NaOH solution (c=1 mol/l) at from −2 to 0° C., a solution of 11.008 g (71.685 mmol) of 4-chlorophenyl isocyanate in 70 ml of IBMK is subsequently added, and the mixture is stirred at −1° C. for 1 hour. Conventional work-up gives 18.52 g of (2S,4R)-1-(4-chlorophenyl-carbamoyl)-4-hydroxypyrrolidine-2-carboxylic acid;

reactant | L-hydroxyproline | 71.685 mmol, 9.4 g | N1[C@H](C(=O)O)C[C@@H](O)C1 | C5H9NO3
reactant | 4-chlorophenyl isocyanate | 71.685 mmol, 11.008 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | NaOH | 1 mol/l, 71.68 ml | [OH-].[Na+]
product | (2S,4R)-1-(4-chlorophenyl-carbamoyl)-4-hydroxypyrrolidine-2-carboxylic acid | 18.52 g | ClC1=CC=C(C=C1)NC(=O)N1[C@@H](C[C@H](C1)O)C(=O)O | C12H13ClN2O4
